US04324786
Preparation of 1-methoxycarbonyl-3-methoxycarbonyloxy-1,2-dihydro-pyrido[2,3-e]-as-triazine hydrochloride
A mixture of 2.5 g (0.015 moles) of 3-hydroxy-1,2-dihydro-pyrido[2,3-e]-as-triazine, 2.16 g (0.03 moles) of methyl chloroformate and 100 ml of dioxane is maintained at 5°-10° C. for 3 hours and then at 40°-50° C. for 5 hours. Thereafter the solvent is removed to obtain 3.58 g (79%) of the title compound; m.p.: 159°-160° C.

reactant | 3-hydroxy-1,2-dihydro-pyrido[2,3-e]-as-triazine | 0.015 moles, 2.5 g | OC=1NNC2=C(N1)N=CC=C2 | C6H6N4O
reactant | methyl chloroformate | 0.03 moles, 2.16 g | ClC(=O)OC | C2H3ClO2
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 1-methoxycarbonyl-3-methoxycarbonyloxy-1,2-dihydro-pyrido[2,3-e]-as-triazine hydrochloride | 3.58 g, 79% | Cl.COC(=O)N1NC(=NC2=C1C=CC=N2)OC(=O)OC | InChI=1S/C10H10N4O5.ClH/c1-17-9(15)14-6-4-3-5-11-7(6)12-8(13-14)19-10(16)18-2;/h3-5H,1-2H3,(H,11,12,13);1H
